### PR TITLE
Well-Behaved (Co)algebraic Semantics of Regular Expressions in Dafny

### PR DESCRIPTION
**Pull request by stefan-aws**
[Regular expressions](https://en.wikipedia.org/wiki/Regular_expression) are one of the most ubiquitous formalisms of theoretical computer science. Commonly, they are understood in terms of their [denotational semantics](https://en.wikipedia.org/wiki/Denotational_semantics), that is, through formal languages — the [regular languages](https://en.wikipedia.org/wiki/Regular_language). This view is inductive in nature: two primitives are equivalent if they are constructed in the same way. Alternatively, regular expressions can be understood in terms of their [operational semantics](https://en.wikipedia.org/wiki/Operational_semantics), that is, through [finite automata](https://en.wikipedia.org/wiki/Finite-state_machine). This view is coinductive in nature: two primitives are equivalent if they are deconstructed in the same way. It is implied by [Kleene’s famous theorem](http://www.dlsi.ua.es/~mlf/nnafmc/papers/kleene56representation.pdf) that both views are equivalent: regular languages are precisely the formal languages accepted by finite automata. In this blogpost, we utilise Dafny’s built-in inductive and coinductive reasoning capabilities to show that the two semantics of regular expressions are [well-behaved](https://homepages.inf.ed.ac.uk/gdp/publications/Math_Op_Sem.pdf), in the sense they are in fact one and the same, up to pointwise [bisimulation](https://en.wikipedia.org/wiki/Bisimulation).

### CODE REVIEW

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 1]
```diff
@@ -0,0 +1,386 @@
...
+
+```
+codatatype Lang<!A> = Alpha(eps: bool, delta: A -> Lang<A>)
+```
+
+To some, this choice might seem odd at first sight. If you are familiar with the topic, you likely have expected the set of formal languages to be defined more concretely as the set of all sets of finite sequences (sometimes called *words*),  `iset<seq<A>>`. Rest assured, we agree — up to an appropriate notion of equality! Where as you characterise languages intrinsically, we treat them extrinsically, in terms of their universal property: [it is well known](https://ir.cwi.nl/pub/28550/rutten.pdf) that `iset<seq<A>>` forms the *greatest* [coalgebraic](https://en.wikipedia.org/wiki/F-coalgebra) structure (think of a deterministic automaton without initial state) `S` that is equipped with functions `eps: S -> bool` and `delta: S → (A → S)`. Indeed, for any set `U` of finite sequences, we can verify whether `U` contains the empty sequence, `U.eps == ([] in U)`, and for any `a: A`, we can transition to the set  `U.delta(a) == (iset s | [a] + s in U)`. Here, we choose the more abstract perspective on formal languages at it hides irrelevant specifics and thus allows us to write more elegant proofs.
```
Comment (atomb) [inline _posts/2024-01-10-semantics-of-regular-expressions.markdown:34]:
```suggestion
To some, this choice might seem odd at first sight. If you are familiar with the topic, you likely have expected the set of formal languages to be defined more concretely as the set of all sets of finite sequences (sometimes called *words*),  `iset<seq<A>>`. Rest assured, we agree — up to an appropriate notion of equality! Whereas you characterise languages intrinsically, we treat them extrinsically, in terms of their universal property: [it is well known](https://ir.cwi.nl/pub/28550/rutten.pdf) that `iset<seq<A>>` forms the *greatest* [coalgebraic](https://en.wikipedia.org/wiki/F-coalgebra) structure (think of a deterministic automaton without initial state) `S` that is equipped with functions `eps: S -> bool` and `delta: S → (A → S)`. Indeed, for any set `U` of finite sequences, we can verify whether `U` contains the empty sequence, `U.eps == ([] in U)`, and for any `a: A`, we can transition to the set  `U.delta(a) == (iset s | [a] + s in U)`. Here, we choose the more abstract perspective on formal languages at it hides irrelevant specifics and thus allows us to write more elegant proofs.
```

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 2]
```diff
@@ -0,0 +1,386 @@
...
+```
+ghost function One<A>(): Lang {
+  Alpha(true, (a: A) => Zero())
+}
+
+ghost function Singleton<A>(a: A): Lang {
+  Alpha(false, (b: A) => if a == b then One() else Zero())
+}
+
+ghost function {:abstemious} Plus<A>(L1: Lang, L2: Lang): Lang {
```
Comment (atomb) [inline _posts/2024-01-10-semantics-of-regular-expressions.markdown:59]: It might be worth introducing the idea of abstemious functions here?

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 3]
```diff
@@ -0,0 +1,386 @@
...
+So far, we have seen two dual approaches for assigning a formal language semantics to regular expressions:
+
+* `Denotational`: an algebra homomorphism obtained via induction
+* `Operational`: a coalgebra homomorphism obtained via coinduction
+
+Next, we show that the denotational and operational semantics of regular expressions are *well-behaved*: they constitute two sides of the same coin. First, we show that `Denotational` is also a coalgebra homomorphism, and that coalgebra homomorphisms are unique up to bisimulation. We then deduce from the former that `Denotational` and `Operational` coincide pointwise, up to bisimulation. Finally, we show that `Operational` is also an algebra homomorphism.
+
+### Denotational Semantics as Coalgebra Homomorphism
+
+In this section, we establish that `Denotational` does not only commute with the algebraic structures of regular expressions and formal languages, but also with their coalgebraic structures:
```
Comment (atomb) [inline _posts/2024-01-10-semantics-of-regular-expressions.markdown:265]:
```suggestion
In this section, we establish that `Denotational` not only commutes with the algebraic structures of regular expressions and formal languages, but also with their coalgebraic structures:
```

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 4]
```diff
@@ -0,0 +1,386 @@
...
...s://en.wikipedia.org/wiki/F-coalgebra), which was pioneered by [Rutten](https://pdf.sciencedirectassets.com/271538/1-s2.0-S0304397500X01466/1-s2.0-S0304397500000566/main.pdf), [Gumm](https://www.researchgate.net/publication/2614339_Elements_Of_The_General_Theory_Of_Coalgebras), and others. The concept of well-behaved semantics goes back to [Turi and Plotkin](https://homepages.inf.ed.ac.uk/gdp/publications/Math_Op_Sem.pdf) and was adapted by [Jacobs](https://link.springer.com/chapter/10.1007/11780274_20) to the case of regular expressions. We heavily used automata theoretic constructions from the 1960s, originally investigated by [Brzozowski](https://dl.acm.org/doi/10.1145/321239.321249) (a more modern presentation can be found e.g. [here](https://alexandrasilva.org/files/thesis.pdf)). Due to space constraints, we had to exclude the details of most of the proofs. To dive deep, please take a look at the full Dafny source code, which is available [here](../../../../assets/src/semantics-of-regular-expressions/Languages.dfy), [here](../../../../assets/src/semantics-of-regular-expressions/Semantics.dfy), and [here](../../../../assets/src/semantics-of-regular-expressions/Expressions.dfy).
```
Comment (atomb) [inline _posts/2024-01-10-semantics-of-regular-expressions.markdown:386]: I don't know that it really makes sense to say "due to space constraints" in a blog post. Maybe say something about focusing on the most important intuitive aspects of the proof, instead?

**Review by atomb — CHANGES_REQUESTED** [review]
This is a very nice post! I just have a few suggestions for improved wording here and there. It also might be nice to use the syntax highlighting that some other recent posts used, though that's not essential.

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 5]
```diff
@@ -0,0 +1,386 @@
...
+
+### Regular Expressions as Datatype
+
+We define the set of regular expressions parametric in an alphabet  `A` as an inductive [`datatype`](https://dafny.org/latest/DafnyRef/DafnyRef#sec-inductive-datatypes):
+
+```
+datatype Exp<A> = Zero | One | Char(A) | Plus(Exp, Exp) | Comp(Exp, Exp) | Star(Exp)
+```
+
+The definition captures that a regular expression is either a primitive character `Char(a)`,  a non-deterministic choice between two regular expressions `Plus(e1, e2)`, a sequential iteration of two regular expressions `Comp(e1, e2)`,  a finite number of self-iterations `Star(e)`, or one of the constants `Zero` (the unit of `Plus`) and `One` (the unit of `Comp`). On a more high-level, above defines  `Exp<A>` as the *smallest* algebraic structures that is equipped with two constants, contains all elements of type `A`, and is closed under two binary and one unary operation.
```
Comment (fzaiser) [inline _posts/2024-01-10-semantics-of-regular-expressions.markdown:24]: I'm not sure what "sequential iteration" is supposed to mean. Why not just call it "concatenation"? Similarly, can we say something like "Zero" is the empty set and "One" the empty string, just to give more intuition to the readers?

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 6]
```diff
@@ -0,0 +1,386 @@
...
+
+### An Algebra of Formal Languages
+
+If you think of formal languages as the set of all sets of finite sequences, you will soon realise that languages admit quite a bit of algebraic structure. For example, there exist two languages of distinct importance (can you already guess which ones?), and one can obtain a new language by taking e.g. the union of two languages. In fact, if you think about it for a bit longer, you’ll realise that formal languages admit exactly the same [type of algebraic structure](https://en.wikipedia.org/wiki/F-algebra) as the one you’ve encountered when we defined regular expressions!
+
+First, there exists the empty language `Zero()` that contains no words at all. Under above view, we find `Zero().eps == false` and `Zero().delta(a) == Zero`, since the empty set does not contain the empty sequence, and the derivative `iset s | [a] + s in iset{}` with respect to any `a: A` yields again the empty set, respectively. We thus define:
```
Comment (fzaiser) [inline _posts/2024-01-10-semantics-of-regular-expressions.markdown:40]: Zero -> Zero()

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 7]
```diff
@@ -0,0 +1,386 @@
...
+
+```
+function Operational<A(==)>(e: Exp): Lang {
+  Alpha(Eps(e), (a: A) => Operational(Delta(e)(a)))
+}
+```
+
+### Operational Semantics as Coalgebra Homomorphism
+
+In [Denotational Semantics as Algebra Homomorphism](#denotational-semantics-as-algebra-homomorphism) we defined algebra homomorphisms as functions `f: Exp -> Lang` that commute with the algebraic structures of regular expressions and formal languages, respectively. Analogously, let us now call a function `f` of the same type a *coalgebra homomorphism*, if it commutes with the *coalgebraic* structures of regular expressions and formal languages, respectively:
```
Comment (fzaiser) [inline _posts/2024-01-10-semantics-of-regular-expressions.markdown:233]: The link is broken in the Github rendering. Not sure how it'll render on the blog.

Comment (stefan-aws) [reply _posts/2024-01-10-semantics-of-regular-expressions.markdown:234]: The link works

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown (hunk 5 above)
Comment (stefan-aws) [reply _posts/2024-01-10-semantics-of-regular-expressions.markdown]: As suggested by Aaron, I'll go with sequential _composition_.

File: assets/src/semantics-of-regular-expressions/Semantics.dfy [hunk 8]
```diff
@@ -0,0 +1,244 @@
...
+      }
+    }
+  }
+
+  /* Denotational is an algebra homomorphism */
+
+  lemma DenotationalIsAlgebraHomomorphism<A(!new)>()
+    ensures IsAlgebraHomomorphism<A>(Denotational)
+  {
+    forall e ensures IsAlgebraHomomorphismPointwise<A>(Denotational, e) {
```
Comment (RustanLeino) [inline assets/src/semantics-of-regular-expressions/Semantics.dfy:101]:
```suggestion
    forall e
      ensures IsAlgebraHomomorphismPointwise<A>(Denotational, e)
    {
```

File: assets/src/semantics-of-regular-expressions/Semantics.dfy [hunk 9]
```diff
@@ -0,0 +1,244 @@
...
+      BisimilarityIsReflexive<A>(Denotational(e));
+    }
+  }
+
+  /* Denotational is a coalgebra homomorphism */
+
+  lemma DenotationalIsCoalgebraHomomorphism<A(!new)>()
+    ensures IsCoalgebraHomomorphism<A>(Denotational)
+  {
+    forall e ensures Denotational<A>(e).eps == Eps(e) {
```
Comment (RustanLeino) [inline assets/src/semantics-of-regular-expressions/Semantics.dfy:111]:
```suggestion
    forall e
      ensures Denotational<A>(e).eps == Eps(e)
    {
```

File: assets/src/semantics-of-regular-expressions/Semantics.dfy [hunk 10]
```diff
@@ -0,0 +1,244 @@
...
+      DenotationalIsCoalgebraHomomorphismHelper1(e);
+    }
+    forall e, a ensures Bisimilar(Denotational<A>(e).delta(a), Denotational<A>(Delta(e)(a))) {
```
Comment (RustanLeino) [inline assets/src/semantics-of-regular-expressions/Semantics.dfy:114]:
```suggestion
    forall e, a
      ensures Bisimilar(Denotational<A>(e).delta(a), Denotational<A>(Delta(e)(a)))
    {
```

File: assets/src/semantics-of-regular-expressions/Semantics.dfy [hunk 11]
```diff
@@ -0,0 +1,244 @@
...
+        BisimilarityIsTransitive(Operational<A>(Star(e1)), Languages.Star(Denotational(e1)), Languages.Star(Operational(e1)));
+    }
+  }
+
+  /* Operational is a coalgebra homomorphism */
+
+  lemma OperationalIsCoalgebraHomomorphism<A(!new)>()
+    ensures IsCoalgebraHomomorphism<A>(Operational)
+  {
+    forall e, a ensures Bisimilar<A>(Operational(e).delta(a), Operational(Delta(e)(a))) {
```
Comment (RustanLeino) [inline assets/src/semantics-of-regular-expressions/Semantics.dfy:229]:
```suggestion
    forall e, a
      ensures Bisimilar<A>(Operational(e).delta(a), Operational(Delta(e)(a)))
    {
```

**Review by RustanLeino — CHANGES_REQUESTED** [review]
This is an interesting and very clear blog post. Well done!

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 12]
```diff
@@ -0,0 +1,391 @@
...
+```
+
+The definition captures that a regular expression is either a primitive character `Char(a)`,  a non-deterministic choice between two regular expressions `Plus(e1, e2)`, a sequential composition of two regular expressions `Comp(e1, e2)`,  a finite number of self-iterations `Star(e)`, or one of the constants `Zero` (the unit of `Plus`) and `One` (the unit of `Comp`). At a higher level, the above defines  `Exp<A>` as the *smallest* algebraic structure that is equipped with two constants, contains all elements of type `A`, and is closed under two binary operations and one unary operation.
+
+### Formal Languages as Codatatype
+
+We define the set of formal languages parametric in an alphabet `A` as an coinductive [`codatatype`](https://dafny.org/latest/DafnyRef/DafnyRef#sec-coinductive-datatypes):
+
+```
+codatatype Lang<!A> = Alpha(eps: bool, delta: A -> Lang<A>)
```
[the remark this answers is not in the document]
Comment (stefan-aws) [reply _posts/2024-01-10-semantics-of-regular-expressions.markdown:32]: I added a paragraph.

File: Makefile [hunk 13]
```diff
@@ -17,6 +17,7 @@ check:
 	assets/src/brittleness/verify.sh
 	assets/src/teaching-material/verify.sh
 	assets/src/standard-libraries/test.sh
+  assets/src/semantics-of-regular-expressions/verify.sh
```
Comment (atomb) [inline Makefile:20]: This line is indented with spaces rather than a tab, which `make` doesn't like.

File: _posts/2024-01-10-semantics-of-regular-expressions.markdown [hunk 14]
```diff
@@ -0,0 +1,407 @@
...
+                  Comp(Exp, Exp) | Star(Exp)
+```
+
+Note that above, and later, we make use of Dafny's [type parameter completion](https://leino.science/papers/krml270.html).
+
+The definition captures that a regular expression is either a primitive character `Char(a)`,  a non-deterministic choice between two regular expressions `Plus(e1, e2)`, a sequential composition of two regular expressions `Comp(e1, e2)`,  a finite number of self-iterations `Star(e)`, or one of the constants `Zero` (the unit of `Plus`) and `One` (the unit of `Comp`). At a higher level, the above defines  `Exp<A>` as the *smallest* algebraic structure that is equipped with two constants, contains all elements of type `A`, and is closed under two binary operations and one unary operation.
+
+### Formal Languages as Codatatype
+
+We define the set of formal languages parametric in an alphabet `A` as an coinductive [`codatatype`](https://dafny.org/latest/DafnyRef/DafnyRef#sec-coinductive-datatypes):
```
Comment (atomb) [inline _posts/2024-01-10-semantics-of-regular-expressions.markdown:31]:
```suggestion
We define the set of formal languages parametric in an alphabet `A` as a coinductive [`codatatype`](https://dafny.org/latest/DafnyRef/DafnyRef#sec-coinductive-datatypes):
```

**Review by atomb — CHANGES_REQUESTED** [review]
I saw a couple of tiny things to fix, but otherwise think this looks great.

**Review by atomb — APPROVED** [review]

**Comment by stefan-aws** [comment]
Content is ready for review. However, turning this temporarily into a draft to implement the changes needed for @jtristan's tool that automatically verifies code snippets.

**Review by RustanLeino — APPROVED** [review]
